US05272147
5-(5-Bromoacetyl-2-ethoxyphenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one
Aluminium trichloride (12.8 g, 0.096 mol) was added portionwise over 1 hour to a stirred solution of 5-(2-ethoxyphenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one (10.0 g, 0.032 mol) and bromoacetyl bromide (5.6 ml, 0.064 mol) in dichloromethane (150 ml) at 0° C. After 18 hours at room temperature, the reaction mixture was poured into ice an water (400 g) and the resulting mixture stirred vigorously. The organic phase was separated and the aqueous phase further extracted with dichloromethane (2×100 ml). The organic solutions were combined, dried (Na2SO4) and evaporated under vacuum to give an off-white solid, trituration of which from ether gave the title compound as a white solid (10.87 g, 78%), m.p. 159°-160° C. Found C,52,54; H,4.88; N,12.78. C19H21BrN4O3 requires C,52.67; H,4,88; N,12.93%

reactant | Aluminium trichloride | 0.096 mol, 12.8 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | 5-(2-ethoxyphenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one | 0.032 mol, 10.0 g | C(C)OC1=C(C=CC=C1)C=1NC(C2=C(N1)C(=NN2C)CCC)=O | C17H20N4O2
reactant | bromoacetyl bromide | 0.064 mol, 5.6 ml | BrCC(=O)Br | C2H2Br2O
reactant | water | 400 g | O | H2O
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 5-(5-Bromoacetyl-2-ethoxyphenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one | 10.87 g, 78% | BrCC(=O)C=1C=CC(=C(C1)C=1NC(C2=C(N1)C(=NN2C)CCC)=O)OCC | C19H21BrN4O3
